US05610302
2-Amino-4-methyl-6-(2,2-dimethylpropyloxy)pyrimidine 3-oxide
0.32 g of sodium is dissolved in 50 ml of 2,2-dimethyl-1-propanol in the heated state. 2 g (0.0125 mole) of 2-amino-4-methyl-6-chloropyrimidine 3-oxide are added and the reaction medium is brought to 105° C. for 22 hours. The mixture, still hot, is poured into 300 ml of 10% aqueous sodium hydroxide solution. The product is extracted with ethyl acetate and the organic phase is dried with sodium sulphate. It is concentrated and a brown oil is obtained. The latter is filtered on silica gel using an elution gradient with ethyl acetate and methanol. After evaporation, a solid crude product is obtained, which is recrystallized in an acetonitrile/water (98:2) mixture.

reactant | sodium | 0.32 g | [Na] | Na
reactant | 2-amino-4-methyl-6-chloropyrimidine 3-oxide | 0.0125 mole, 2 g | NC1=NC(=CC(=[N+]1[O-])C)Cl | C5H6ClN3O
reactant | sodium hydroxide | 300 ml | [OH-].[Na+]
reactant | 2,2-dimethyl-1-propanol | 50 ml | CC(CO)(C)C | C5H12O
product | 2-Amino-4-methyl-6-(2,2-dimethylpropyloxy)pyrimidine 3-oxide | NC1=NC(=CC(=[N+]1[O-])C)OCC(C)(C)C | C10H17N3O2
